US04558043
A mixture of 8 g (37.9 mmole) of 3,5-dimethyl-6-(pyrrol-1-yl)-benzofuran, 1.6 g of 5% palladium on carbon and 80 ml of dioxane is hydrogenated at 35° and a pressure of 4 bar. To complete the reaction, 0.8 g, each time, of 5% palladium on carbon is added a further three times during hydrogenation. After a total of 100 hours, the catalyst is filtered off and the filtrate is concentrated by evaporation in vacuo. Chromatography of the residue over silica gel (petroleum ether/methylene chloride) and distillation of the pure fractions in a bulb tube (120°/2.10-2 torr) yields 3,5-dimethyl-6-(pyrrol-1-yl)-2,3-dihydrobenzofuran in the form of a colourless oil.

reactant | 3,5-dimethyl-6-(pyrrol-1-yl)-benzofuran | 37.9 mmole, 8 g | CC1=COC2=C1C=C(C(=C2)N2C=CC=C2)C | C14H13NO
catalyst | palladium on carbon | 1.6 g | [Pd] | Pd
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 3,5-dimethyl-6-(pyrrol-1-yl)-2,3-dihydrobenzofuran | CC1COC2=C1C=C(C(=C2)N2C=CC=C2)C | C14H15NO
